US07452886B2
6.1 g of 2-chloro-9-(2,2-dimethyl-propyl)-8-methyl-9H-purine, 1.25 g of NaCN and 0.57 g of DABCO were heated for 6 hours to 80° C. in 60 ml DMSO/H2O=90:10. The crude mixture was extracted with ethyl acetate and saturated NaHCO3 solution and the organic phases were dried over sodium sulfate and evaporated to dryness. After chromatography on silicagel with ethyl acetate/hexanes=1:1 9-(2,2-dimethyl-propyl)-8-methyl-9H-purine-2-carbonitrile was isolated as a pale brown powder.

reactant | 2-chloro-9-(2,2-dimethyl-propyl)-8-methyl-9H-purine | 6.1 g | ClC1=NC=C2N=C(N(C2=N1)CC(C)(C)C)C | C11H15ClN4
reactant | NaCN | 1.25 g | [C-]#N.[Na+]
reactant | DABCO | 0.57 g | C1CN2CCN1CC2 | C6H12N2
solvent | DMSO H2O | 60 ml | CS(=O)C.O
product | 9-(2,2-dimethyl-propyl)-8-methyl-9H-purine-2-carbonitrile | CC(CN1C2=NC(=NC=C2N=C1C)C#N)(C)C | C12H15N5
